US05319100
To a chilled solution (-70° C.) of 1.657 g (8.95 mmol) of the thus obtained 1-ethoxycarbonyl-5,5-dimethylpyrrolidin-2-one in THF (45 ml) was added 9 ml of a THF solution of 1.0M lithium hexamethyldisilazane under a nitrogen atmosphere. Five minutes later, 2.74 g (9 mmol) of 3,5-di-tert-butyl-4-trimethylsiloxybenzaldehyde was added thereto and the mixture was stirred at room temperature for 2 hours. The reaction mixture was then poured into ice-water and extracted with dichloromethane. The dichloromethane layer was washed with water, dried over magnesium sulfate and evaporated to give a residue, which was then dissolved in 40 ml of toluene and combined with 280 mg of p-toluenesulfonic acid and the mixture was refluxed for 1.5 hours. After cooled down, the reaction mixture was evaporated and the resulting residue was dissolved in 30 ml of THF. Under ice-cooling, 3.5 ml of a THF solution of 2.0M tetra-n-butylammonium fluoride was added thereto and the mixture was stirred for 10 minutes. The mixture was poured into ice-water containing sodium bicarbonate and extracted with dichloromethane. The dichloromethane layer was washed with an aq. sodium bicarbonate, water, then saturated brine and dried over magnesium sulfate and evaporated to give 1-ethoxycarbonyl-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)-5,5-dimethylpyrrolidin-2-one as residue, which was then dissolved in a methanol/water (4/1) mixed solution (100 ml). Five % solution of potassium hydroxide (5 ml) was added thereto while being stirred under ice-cooling and stirred at room temperature for 3.5 hours. The reaction mixture was neutralized with 38 ml of 2N hydrochloric acid and extracted with dichloromethane. The organic layer was washed with saturated brine, dried over magnesium sulfate and evaporated to give a residue, which was recrystallized from a dichloromethane/ether mixture to give 386 mg of the objective compound. Then the mother liquor was chromatographed on silica gel (toluene/ethyl acetate=1/1) and recrystallized to give 559 mg of the objective compound. Totally, 945 mg of the objective compound was obtained in 24% overall yield.

reactant | 1-ethoxycarbonyl-5,5-dimethylpyrrolidin-2-one | C(C)OC(=O)N1C(CCC1(C)C)=O | C9H15NO3
reactant | lithium hexamethyldisilazane | 1.0M | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | 3,5-di-tert-butyl-4-trimethylsiloxybenzaldehyde | 9 mmol, 2.74 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1O[Si](C)(C)C)C(C)(C)C | C18H30O2Si
reactant | p-toluenesulfonic acid | 280 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | THF | 45 ml | C1CCOC1 | C4H8O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | 9 ml | C1CCOC1 | C4H8O
product | 1-ethoxycarbonyl-3-(3,5-di-tert-butyl-4-hydroxybenzylidene)-5,5-dimethylpyrrolidin-2-one | C(C)OC(=O)N1C(C(CC1(C)C)=CC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C24H35NO4
